Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])[H:17],4.560538515259999
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-4.64730050829
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.63820018018
[H:1][C:2]=[C:3]1[O:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:6]([O:5][O:4])([H:7])[C:8]([H:9])([H:10])[H:11],-0.552634316791
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-2.27427243513
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[O:8],1.29818337457
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],1.85544815059
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7],2.86276123406
[H:18].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.56283101766
[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8]>>[H:1][C:2]([H:3])[C@@:4]12[O:5][C:6]1[C:7]2[H:8],-0.74888968788
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.32354161244
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]=[C:9]([H:10])[H:11].[H:6],3.96667332493
[C:11]=[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-3.29670459269
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.39809967949
[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.5989205637
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.37928838809
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.75027790282
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[O:1],8.30100713
[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4]#[C:5][H:6].[H:7],2.52043747811
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],7.016844337569999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])=[C:13]([H:14])[H:15].[H:6],1.81144168581
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.8903794063
[C:1].[C:2][O:3][C:4]#[C:5]>>[C:1]#[C:2][O:3][C:4]#[C:5],-4.23583178194
[C:1]#[C:2][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[C:3]([H:4])([H:5])[O:6][H:7]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.11044967704
[C:1]=[C:2]([C:3](=[O:4])[O:5])[C:7]([H:8])([H:9])[H:10].[H:6]>>[C:1]=[C:2]([C:3](=[O:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.02805869139
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.71028989567
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])#[C:13][H:14].[H:1][C:3]([H:15])[H:16],3.67759956552
